US08242280B2
(5-Bromo-pyridin-3-yl)-hydroxy-acetic acid HCl salt (1.19 g, 4.47 mmol), C,C-Diphenyl-methylamine (1.3 g, 5.36 mmol), HOAT (2.0 g, 5.36 mmol) and DIEA (1.94 mL, 11.17 mmol) were all combined in THF (43.0 mL) and heated in a closed vial for 20 min. at 60° C. The solution was diluted with ethyl acetate and washed with saturated sodium bicarbonate (1×) and brine (1×). The material was purified by silica gel chromatography using a gradient of hexanes and ethyl acetate (0-100%) to afford N-benzhydryl-2-(5-bromo-pyridin-3-yl)-2-hydroxy-acetamide (1.5 g, 73.5%) as a waxy white solid. MS: m/z 397 (M+H+).

reactant | (5-Bromo-pyridin-3-yl)-hydroxy-acetic acid HCl salt | 4.47 mmol, 1.19 g | Cl.BrC=1C=C(C=NC1)C(C(=O)O)O
reactant | C,C-Diphenyl-methylamine | 5.36 mmol, 1.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | HOAT | 5.36 mmol, 2.0 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIEA | 11.17 mmol, 1.94 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 43.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzhydryl-2-(5-bromo-pyridin-3-yl)-2-hydroxy-acetamide | 1.5 g, 73.5% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(O)C=1C=NC=C(C1)Br)=O | C20H17BrN2O2
